US04812164
using isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate and sodium ethylate in ethanol there is obtained isopropyl 5-[2-ethyl-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-2-chloro- 4-fluorobenzoate, 1H-NMR (CDCl3, 400 MHz): 7.83 ppm (d,1H), 7.39 ppm (d,1H), 6.65 ppm (s,1H), 5.72 ppm (m,1H), 4.48 ppm (m,2H), 1.38 ppm (d,3H), 1.37 ppm (d,3H), 1.29 ppm (t,3H);

reactant | isopropyl 2-chloro-5-[2-chloro-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)Cl | C16H10Cl2F6N2O3
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | isopropyl 5-[2-ethyl-6-oxo-4-pentafluoroethyl-1(6H)-pyrimidinyl]-2-chloro- 4-fluorobenzoate | C(C)C=1N(C(C=C(N1)C(C(F)(F)F)(F)F)=O)C=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F | C18H15ClF6N2O3
